US06608062B1
To a mixture of 6-phenyl-[1,2,4]triazine (18 g, 115 mmol) in anhydrous liquid ammonia (1 l) under an atmosphere of nitrogen at −37° C. was added in one portion potassium permanganate (22.6 g, 143 mmol). The reaction mixture was stirred at −37° C. for 30 min and then the ammonia evaporated. To the residue was added propan-2-ol (800 ml) and the resulting mixture heated under reflux for 10 min, then filtered through hyflo. The filtrate was evaporated in vacuo. The residue was purified by flash chromatography (SiO2; 4% MeOH in CH2Cl2+0.5% NH3) to afford 9.8 g (57 mmol, 50%) of 6-phenyl-[1,2,4]triazin-5-ylamine as a yellow solid. δH (360 MHz; CDCl3) 5.58 (2H, br s, NH2), 7.51-7.57 (3H, m, aromatics), 7.68-7.72 (2H, m, aromatics), 8.80 (1H, s, triazine H3); m/z (ES+) 173 (M++H, 100%).

reactant | 6-phenyl-[1,2,4]triazine | 115 mmol, 18 g | C1(=CC=CC=C1)C1=CN=CN=N1 | C9H7N3
reactant | ammonia | 1 l | N | H3N
reactant | potassium permanganate | 143 mmol, 22.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
product | 6-phenyl-[1,2,4]triazin-5-ylamine | 57 mmol, 9.8 g, 50% | C1(=CC=CC=C1)C1=C(N=CN=N1)N | C9H8N4
